US09428495B2
To a stirred solution of (2R,6R)-tert-butyl 2-((S)-hydroxy(pyridin-2-yl)methyl)-6-methylmorpholine-4-carboxylate (150 mg, 0.486 mmol) in DCM (5 mL) was added TFA (1 mL) followed by stifling at rt for 1 h. The completed reaction was concentrated and azeotroped to dry three times with toluene (5 mL each) followed by diluting with DCM (10 ml) washing two times with saturated NaHCO3 in water (2 mL), brine (2 mL), drying over MgSO4, filtering and concentration and drying in vacuo to provide crude (S)-((2R,6R)-6-methylmorpholin-2-yl)(pyridin-2-yl)methanol (97.8 mg, 0.469, 96.4% yield).

reactant | (2R,6R)-tert-butyl 2-((S)-hydroxy(pyridin-2-yl)methyl)-6-methylmorpholine-4-carboxylate | 0.486 mmol, 150 mg | O[C@H]([C@H]1CN(C[C@H](O1)C)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C16H24N2O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-((2R,6R)-6-methylmorpholin-2-yl)(pyridin-2-yl)methanol | 97.8 mg, 96.4% yield | C[C@H]1O[C@H](CNC1)[C@@H](O)C1=NC=CC=C1 | C11H16N2O2
